US05238962
A solution of 1.3 ml (0.01 mol) of 4-chlorobenzoyl chloride in 15 ml of chloroform is added dropwise at 0° to a solution of 1.02 g (0.01 mol) of acetylethylenediamine [J. Amer. Chem. Soc. 61, 822 (1939)] and 1.4 ml (0.01 mol) of triethylamine in 25 ml of chloroform. After 15 minutes, the resulting crystals are filtered off, washed with chloroform and dried. There are obtained 1.9 g of N-(2-acetylaminoethyl)-4-chlorobenzamide, m.p. 222°-224°.

reactant | 4-chlorobenzoyl chloride | 0.01 mol, 1.3 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | acetylethylenediamine | 0.01 mol, 1.02 g | C(C)(=O)NCCN | C4H10N2O
reactant | triethylamine | 0.01 mol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-acetylaminoethyl)-4-chlorobenzamide | 1.9 g | C(C)(=O)NCCNC(C1=CC=C(C=C1)Cl)=O | C11H13ClN2O2
